US04493840
A mixture of 2-guanidino-4-(4-aminobutyl)thiazole (0.105 g) and 1-[4-(2-guanidinothiazol-4-yl)butylamino]-2-methoxycyclobutene-3,4-dione (0.16 g) in dry methanol (5 ml) was stirred for 18 hours at room temperature. The white solid was filtered off, washed with methanol and dried in vacuo to give 1,2-bis[4-(2-guanidinothiazol-4-yl)butylamino]cyclobutene-3,4-dione, 0.16 g., m.p. 228°-229° C.

reactant | 2-guanidino-4-(4-aminobutyl)thiazole | 0.105 g | N(C(=N)N)C=1SC=C(N1)CCCCN | C8H15N5S
reactant | 1-[4-(2-guanidinothiazol-4-yl)butylamino]-2-methoxycyclobutene-3,4-dione | 0.16 g | N(C(=N)N)C=1SC=C(N1)CCCCNC1=C(C(C1=O)=O)OC | C13H17N5O3S
solvent | methanol | 5 ml | CO | CH4O
product | 1,2-bis[4-(2-guanidinothiazol-4-yl)butylamino]cyclobutene-3,4-dione | N(C(=N)N)C=1SC=C(N1)CCCCNC1=C(C(C1=O)=O)NCCCCC=1N=C(SC1)NC(=N)N | C20H28N10O2S2
